US06800629B2
In 15 ml of dimethylformamide was dissolved 1.5 g of 3,6-dichloro-2-pyrazinecarbonitrile. After adding 1.2 g of 4-methoxyphenol and 1.8 g of potassium carbonate, the mixture thus obtained was stirred at room temperature for 30 minutes. A mixture of 20 mL of ethyl acetate and 60 mL of water was added to the reaction mixture, and the organic layer was separated. The organic layer was washed successively with water and saturated aqueous solution of sodium chloride and dried on anhydrous magnesium sulfate, and the solvent was removed under reduced pressure. The residue thus obtained was purified by silica gel column chromatography [eluent: n-hexane:ethyl acetate=5:1] to obtain 2.1 g of 6-chloro-3-(4-methoxyphenoxy)-2-pyrazinecarbonitrile as a yellow-colored solid product.

reactant | 3,6-dichloro-2-pyrazinecarbonitrile | 1.5 g | ClC=1C(=NC(=CN1)Cl)C#N | C5HCl2N3
reactant | 4-methoxyphenol | 1.2 g | COC1=CC=C(C=C1)O | C7H8O2
reactant | potassium carbonate | 1.8 g | C([O-])([O-])=O.[K+].[K+]
reactant | ethyl acetate | 20 mL | C(C)(=O)OCC | C4H8O2
solvent | dimethylformamide | 15 ml | CN(C=O)C | C3H7NO
solvent | water | 60 mL | O | H2O
product | 6-chloro-3-(4-methoxyphenoxy)-2-pyrazinecarbonitrile | 2.1 g | ClC1=CN=C(C(=N1)C#N)OC1=CC=C(C=C1)OC | C12H8ClN3O2
